2206-06-29 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: dyspnea
   24 Hour Events:
   - overnight tolerated nasal canula with good oxygen saturations
   - low UOP, advance diet to clears so she could drink to thirst
   - no major complaints overnight
   - HR went from 120s-130s to around 100
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2206-6-29**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 97 (97 - 123) bpm
   BP: 126/73(85) {122/67(79) - 169/105(110)} mmHg
   RR: 25 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.3 kg (admission): 42 kg
                  Total In:
                                                                    400 mL
                                                                    300 mL
   PO:
                                                                    150 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    235 mL
                                                                    175 mL
   Urine:
                                                                    235 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    165 mL
                                                                    125 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General: chronically ill appearing, alert, oriented x3, in acute
   respiratory distress and using accessory muscles
   HEENT: Sclera anicteric, dry mucous membranes, poor dentition,
   oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: decreased air movement in all lung fields, scant wheezes
   anteriorally, no crackles or rhonchi
   CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, tender to diffuse palpation, non-distended, bowel
   sounds present, no rebound tenderness or guarding, no organomegaly
   GU: foley in place
   Ext: cool extremities, thin, palp pulses, clubbing
   Labs / Radiology
   393 K/uL
   10.0 g/dL
   172 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   30 mg/dL
   98 mEq/L
   137 mEq/L
   31.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2206-6-28**]  11:59 PM
                             [**2206-6-29**]  04:38 AM
   WBC
   6.4
   Hct
   31.4
   Plt
   393
   Cr
   0.7
   TropT
   <0.01
   Glucose
   172
   Other labs: PT / PTT / INR:11.9/25.7/1.0, CK / CKMB /
   Troponin-T:32//<0.01, Differential-Neuts:91.3 %, Lymph:6.8 %, Mono:0.7
   %, Eos:0.4 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   63 y/o F with hx of severe COPD, IgA immunedeficiency and CAD who
   presents with worsening dyspnea, consistent with a COPD flare.
   .
   # Dyspnea: most likely secondary to COPD flare as she recently came off
   steroids.  Stable on nasal canula with nebs.  Did not tolerate cpap
   when she got to the floor.  VBGs improving.
   - O2 NC with goal O2 sats 90-95
   - solumedrol IV 125 mg q8hrs, cont for one more day prior to switching
   to PO
   - insulin sliding scale while on steroids
   - xopenex nebs q4 (q2 PRN), ipratropium q6 hrs
 tachycardia has
   improved
   - continue azithromycin, if spike would cover for HAP
   - blood cx, sputum cx
 sputum GS with only oral flora
   - monitor today, and if needed, consider bipap
   - echo in AM as pt having worsening symptoms without clear pulmonary
   infection
   .
   # CAD / ST depressions: EKG with new ST depressions, asymptomatic,
   likely rate related, EKG normalized
   - cardiac enzymes were negative
   - ASA, statin, plavix; no BB due to COPD
   .
   # Tachycardia: sinus tach, chronic as is tachycardic in all prior
   discharge summaries.  Probably multifactorial secondary to respiratory
   distress, pain, dehydration.  No evidence of R heart strain, but if
   does not improve, consider PE workup.
   - xopenex instead of albuterol
   - telemetry
   - received 250 cc bolus, would keep on drier side, though, because of
   pulm function, apparently has low UOP at baseline
   .
   # Abd pain: chronic, no change in symptoms, unclear etiology.
   - pain control as below
   - cont ranitidine
   .
   # IgA Deficiency: has known immunedeficiency.  If clinically worsens,
   would broaden abx to HAP coverage.
   .
   # Cachexia: chronic, has lost significant amount of weight in past year
   secondary to poor PO intake.  Outpatient malignancy workup has been
   negative.
   - advance diet, including ensures
   .
   # Depression: stable, no changes in mood
   - continue outpatient nortriptyline and paroxetine
   .
   # Pain Control: from kyphotic fractures, is on chronic opioids at home
   and in conjunction with her PCP.
   [**Name Initial (NameIs) **] continue fentanyl patch and percocet PRN
   .
   FEN: No IVF, replete electrolytes, NPO tonight
   Prophylaxis: Subutaneous heparin, pneumoboots
   Access: peripherals x2
   Code:  Full (discussed with patient)
   Communication: Patient, daughters
   Disposition: ICU, pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2206-6-28**] 06:24 PM
   Prophylaxis:
   DVT: sq hep
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: potentially call out to floor

2206-06-29 11:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 y/o f with COPD, CAD, osteoporosis, IgA def who recently finished
   steroid taper with increased SOB. Also c/o chronic abdominal pain. Lost
   40 lbs in last year. Tachypneic in 30s, 96% on NRB, given nebs, started
   nasal CPAP. Unable to obtain ABG. VBG 7.30/71 to 7.34/64.
   24 Hour Events:
   Overnight placed back on nasal CPAP and desatted to 70s. Then placed on
   NC and improved. Switched nebs to xopenex. Started solumedrol and
   azithromycin.
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   plavix, nortriptyline, paxil, solumedrol, sc hep, colace, senna,
   ranititdine, zocor, singulair, xopenex, SSI, azithro, percocet,
   fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2206-6-29**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.1
   HR: 108 (94 - 123) bpm
   BP: 131/66(82) {122/66(79) - 169/105(110)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 41.3 kg (admission): 42 kg
                  Total In:
                                                                    400 mL
                                                                    780 mL
   PO:
                                                                    150 mL
                                                                    780 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                    235 mL
                                                                    220 mL
   Urine:
                                                                    235 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    165 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   393 K/uL
   172 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.4 mEq/L
   30 mg/dL
   98 mEq/L
   137 mEq/L
   31.4 %
   6.4 K/uL
        [image002.jpg]
                             [**2206-6-28**]  11:59 PM
                             [**2206-6-29**]  04:38 AM
   WBC
   6.4
   Hct
   31.4
   Plt
   393
   Cr
   0.7
   TropT
   <0.01
   Glucose
   172
   Other labs: PT / PTT / INR:11.9/25.7/1.0, CK / CKMB /
   Troponin-T:32//<0.01, Differential-Neuts:91.3 %, Lymph:6.8 %, Mono:0.7
   %, Eos:0.4 %, Ca++:9.2 mg/dL, Mg++:1.7 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Problems:
   COPD flare
   Osteoprosis
   Plan: COPD
   -continue solumedrol
   -rule out MI
   -xopenex
   -if needed nasal BiPAP
   -keep sats 90-92%
   Abd pain:
   -chronic
   -cont. chronic pain meds
   -advance diet
   Depression:
   -notryptyline
   FEN: diet
   Code: Full
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2206-6-28**] 06:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**First Name (STitle) 3648**]
s note above and
   agree with her findings and plan of care.  Mrs [**Known lastname 414**] is well known to
   me and she has very severe steroid responsive COPD with an IGA
   deficiency that predisposes her to infections.  She has severe kyphosis
   from osteoporosis which further increases her work of breathing, and
   has lost much weight and undoubtedly has decreased muscle strength,
   including of her resp muscles.
   In the setting of tapering off steroids the pt had to stop her inhaled
   steroids due to lack of insurance coverage.  In this setting she noted
   increased SOB and was admitted.  She has improved with solumedrol, RTC
   nebs, and Azithro, but is still wheezing today.  Though no clear
   evidence of pneumonia, I agree with continuing antibiotics.
   I have long thought that she should not be totally tapered off po
   steroids and would suggest that a chronic dose of 5-10mg daily might
   prevent COPD flares and hospitalizations.   This would also protect her
   from times when she can
t afford her inhaled steroids (donut hole
   medicare part D).  Additionally one could Rx her with Pulmicort
   Respules .25 - .5mg [**Hospital1 **] via nebulzer, which I think regular Medicare
   will cover all year long.
   She also needs aggressive attention to reversing wt loss, including RTC
   Ensure or Carnation Instant [**First Name9 (NamePattern2) 9844**]
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 2045**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 4513**] [**Last Name (NamePattern1) 2045**], MD
   on:[**2206-6-29**] 16:04 ------

2206-06-30 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2206-6-29**].
   - echo ordered but not performed
   - patient does not have money for all her meds, so was not taking
   advair at home
   - respiratory status remained stable
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2206-6-30**] 04:00 AM
   Other medications:
   Fentanyl patch
   Azithro
   ISS
   HSQ
   Senna, colace
   Ranitidine
   Paxil
   Simvastatin
   Nortriptyline
   Plavix
   Montelukast
   Xopenex
   Atrovent
   Methylprednisolone
   Percocet PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2206-6-30**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 92 (92 - 116) bpm
   BP: 140/80(95) {122/64(80) - 155/121(125)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.3 kg (admission): 42 kg
             Total In:
                                                                  1,720 mL
                                                                     20 mL
   PO:
                                                                  1,720 mL
             TF:
   IVF:
   20 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    185 mL
   Urine:
                                                                    745 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                   -165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: decreased breath sounds diffusely, poor air entry,
   no wheezes or crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   419 K/uL
   9.5 g/dL
   160 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.7 mEq/L
   30 mg/dL
   99 mEq/L
   139 mEq/L
   31.3 %
   17.8 K/uL
        [image002.jpg]
                             [**2206-6-28**]  11:59 PM
                             [**2206-6-29**]  04:38 AM
                             [**2206-6-30**]  03:47 AM
   WBC
   6.4
   17.8
   Hct
   31.4
   31.3
   Plt
   393
   419
   Cr
   0.7
   0.8
   TropT
   <0.01
   Glucose
   172
   160
   Other labs: PT / PTT / INR:11.2/24.7/0.9, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:[**9-13**], Alk Phos / T Bili:55/0.2,
   Differential-Neuts:95.7 %, Lymph:2.6 %, Mono:1.1 %, Eos:0.4 %,
   Albumin:3.4 g/dL, LDH:193 IU/L, Ca++:9.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   63 y/o F with hx of severe COPD, IgA immunedeficiency and CAD who
   presents with worsening dyspnea, consistent with a COPD flare.  ICU
   course complicated by A. fib with RVR today requiring cardioversion.
   .
   # Dyspnea: most likely secondary to COPD flare as she recently came off
   steroids.  Stable on nasal canula with nebs.  Did not require CPAP or
   BIPAP over 24 hours.
   - O2 NC with goal O2 sats 90-95
   - continue IV steroids given episode of respiratory distress today
   - insulin sliding scale while on steroids
   - xopenex nebs q4 (q2 PRN), ipratropium q6 hours
   - continue azithromycin
   - blood cx, sputum cx
   - echo in AM as pt having worsening symptoms without clear pulmonary
   infection
   .
   # A fib with RVR.  Had been in sinus tachycardia during MICU stay but
   had episode of A. fib with RVR to 180s today associated with SOB.  She
   was given adenosine 6 mg iv x 1 with out cardioversion and it was clear
   she was in an irregular rhythm.  She was given dilt 10 mg IV x 2.  She
   was cardioverted with conversion to NSR.  Trigger for A. fib with RVR
   was not clear as patient was not in pain, dehydrated, or in respiratory
   distress.
   - xopenex instead of albuterol
   - telemetry
   - initiate metoprolol for improved rate control though currently in
   sinus
   .
   # CAD / ST depressions: EKG with new ST depressions, asymptomatic,
   likely rate related, EKG normalized.  Cardiac enzymes were negative.
   - ASA, statin, plavix; no BB due to COPD
   .
   .
   # Abd pain: chronic, no change in symptoms, unclear etiology.
   - pain control as below
   - cont ranitidine
   .
   # IgA Deficiency: has known immunedeficiency.  If clinically worsens,
   would broaden abx to HAP coverage.
   .
   # Cachexia: chronic, has lost significant amount of weight in past year
   secondary to poor PO intake.  Outpatient malignancy workup has been
   negative.  Suspect this is related to worsening COPD.
   - advance diet, including ensures
   .
   # Depression: stable, no changes in mood
   - continue outpatient nortriptyline and paroxetine
   .
   # Pain Control: from kyphotic fractures, is on chronic opioids at home
   and in conjunction with her PCP.
   [**Name Initial (NameIs) **] continue fentanyl patch and percocet PRN
   .
   FEN: No IVF, replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin, pneumoboots
   Access: peripherals x2
   Code:  Full (discussed with patient)
   Communication: Patient, daughters
   Disposition: ICU, pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2206-6-28**] 06:24 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU given A. fib with RVR requiring cardioversion

2206-06-30 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63 yo woman severe COPD and mitral regurgitation admitted [**6-28**] for
   hypoxemic resp distress.
   24 Hour Events:
   This AM with an episode of SVT- HR to 180s w/ SBP 160s. Received 6mg
   adenosine IV w/ afib noted on rhythm strip. Immediately following
   adenosine went into hypoexmic resp distress w/ sats down to 70s on RA.
   Bag mask ventilation temporarily followed by propofol bolus and
   synchronized cardioversion @ 200J. Receveived dilt 10mg IV x2 as well.
   Currently in sinus rhythm on Venti mask
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2206-6-30**] 04:00 AM
   Other medications:
   Singulair, Solu-Medrol, azithromycin, nortriptyline, Paxil, Ranitidine,
   simvastatin, RISS, fentanyl patch, ASA, Plavix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2206-6-30**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 102 (92 - 116) bpm
   BP: 132/69(85) {122/64(80) - 159/121(125)} mmHg
   RR: 27 (13 - 30) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 41.3 kg (admission): 42 kg
             Total In:
                                                                  1,720 mL
                                                                    410 mL
   PO:
                                                                  1,720 mL
                                                                    360 mL
   TF:
   IVF:
   50 mL
   Blood products:
   Total out:
                                                                    745 mL
                                                                    255 mL
   Urine:
                                                                    745 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///31/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   419 K/uL
   160 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.7 mEq/L
   30 mg/dL
   99 mEq/L
   139 mEq/L
   31.3 %
   17.8 K/uL
        [image002.jpg]
                             [**2206-6-28**]  11:59 PM
                             [**2206-6-29**]  04:38 AM
                             [**2206-6-30**]  03:47 AM
   WBC
   6.4
   17.8
   Hct
   31.4
   31.3
   Plt
   393
   419
   Cr
   0.7
   0.8
   TropT
   <0.01
   Glucose
   172
   160
   Other labs: PT / PTT / INR:11.2/24.7/0.9, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:[**9-13**], Alk Phos / T Bili:55/0.2,
   Differential-Neuts:95.7 %, Lymph:2.6 %, Mono:1.1 %, Eos:0.4 %,
   Albumin:3.4 g/dL, LDH:193 IU/L, Ca++:9.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.0
   mg/dL
   Imaging: CXR [**6-30**]- hyperinflated, ? RLL infiltrate
   Microbiology: [**6-28**] Sputum and blood pending
   Assessment and Plan
   63 yo woman severe COPD and mitral regurgitation admitted [**6-28**] for
   hypoxemic resp distress.
   Acute resp distress: underlying severe COPD w/ afib and RVR and MR,
   adenosine tx
   -repeat CXR this AM
   -possible diuresis based on CXR findings
   -Solu-Medrol IV today + azithromycin
   -Xopenex and Atrovent nebs
   -goal sats 88-92%
   -BiPAP if needed
   Afib w/ RVR: new this AM
   -received dilt 10 IV x2 this am during event of RVR
   -start scheduled diltiazem today
   -f/u echo and repeat TSH
   -will need to discuss anticoag w/ pt and PMD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2206-6-28**] 06:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 63F very severe COPD p/w respiratory distress
   in the setting of hyperternsion and MR. This AM developed AF c RVR c/b
   respiratory distress while being moved. Treated with dilt IV x2 without
   change. Initiated mask vent with propofol 40mg IVP prior to
   synchronized DCCV at 200J with conversion to NSR.
   Exam notable for Tm 97.8 BP 130/70 HR 170 (pre) 100 (post) RR 18-24
   with sat 99 on 4LNC. Cachectic woman, severe resp distress while
   getting mask vent. Distant BS B. Irreg s1s2. Soft +BS. No edema. Labs
   notable for WBC 18K, HCT 31, K+ 4.7, Cr 0.8. CXR with hyperinflation.
   Agree with plan to manage AF c RVR with DCCV as outlined above,
   currently in NSR. Will get echo, check TSH and will use dilt IV PRN,
   holding heparin for the moment. [**Name2 (NI) **] continue steroids, abx, and nebs
   PRN for COPD flare. Abdominal pain is baseline. Remainder of plan as
   outlined above.
   Patient is critically ill
   Total time: 90 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Last Name (NamePattern1) 33**], MD
   on:[**2206-6-30**] 13:02 ------

2206-07-01 09:51:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63F with severe COPD, presented with COPD flare. During rounds
   yesterday developed SVT vs. AFIB with RVR. DCCV, started on diltiazem.
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2206-6-30**] 11:00 AM
   stable overnight.
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Adenosine - [**2206-6-30**] 10:40 AM
   Diltiazem - [**2206-6-30**] 10:50 AM
   Propofol - [**2206-6-30**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2206-6-30**] 08:38 PM
   Other medications:
   atrovent, solumedrom 125 q8, sqh, colace, senna, ranitidine, parox,
   simva, nortip, plavix, singulair, humalog, azithro, fent td, dilt,
   levalbuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, Dyspnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Dysuria
   Signs or concerns for abuse : No
   Pain: [**11-29**] Minimal
   Pain location: ribs
   Flowsheet Data as of  [**2206-7-1**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98
   HR: 86 (77 - 177) bpm
   BP: 146/75(90) {120/63(79) - 169/116(129)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 41.3 kg (admission): 42 kg
                  Total In:
                                                                    650 mL
                                                                    240 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                     50 mL
   Blood products:
   Total out:
                                                                    665 mL
                                                                    152 mL
   Urine:
                                                                    665 mL
                                                                    152 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                     88 mL
   Respiratory support
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases, Wheezes : upper, Diminished: upper)
   Abdominal: Soft, Tender: minimally
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   409 K/uL
   174 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.4 mEq/L
   32 mg/dL
   102 mEq/L
   140 mEq/L
   29.5 %
   17.4 K/uL
        [image002.jpg]
                             [**2206-6-28**]  11:59 PM
                             [**2206-6-29**]  04:38 AM
                             [**2206-6-30**]  03:47 AM
                             [**2206-6-30**]  05:13 PM
                             [**2206-7-1**]  04:16 AM
   WBC
   6.4
   17.8
   17.4
   Hct
   31.4
   31.3
   29.5
   Plt
   393
   419
   409
   Cr
   0.7
   0.8
   0.7
   0.7
   TropT
   <0.01
   Glucose
   172
   160
   139
   174
   Other labs: PT / PTT / INR:10.8/23.5/0.9, CK / CKMB /
   Troponin-T:32//<0.01, ALT / AST:[**9-13**], Alk Phos / T Bili:55/0.2,
   Differential-Neuts:96.1 %, Lymph:1.9 %, Mono:1.7 %, Eos:0.2 %,
   Albumin:3.4 g/dL, LDH:193 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.3
   mg/dL
   Imaging: cxr: none today
   tte: mild to moderate mr; cad
   Microbiology: bcx ngtd
   Assessment and Plan
   63F with severe COPD, CAD, afib with rvr requiring cardioversion, now
   improved on steroids, abx, and diltiazem.
   copd: unusual presentation, hypertension?, hfpef? now much improved
   -switch steroids to prednisone
   -cont azithro
   -cont levalbuterol
   -cont atrovent
   afib/rvr
   -cont dilt, uptitrate
   cad
   -plavix
   -clarify asa history and start if safe
   -cont statin
   total body pains
   -cont fentanyl
   cachexia
   -cont supplements
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2206-6-28**] 05:56 PM
   18 Gauge - [**2206-6-30**] 11:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 63F very severe COPD p/w respiratory distress
   in the setting of hypertension and MR. She has been in NSR since
   synchronized DCCV yesterday.
   Exam notable for Tm 97.8 BP 130/70 HR 80 RR 18-24 with sat 96 on 3LNC.
   Cachectic woman, mild resp distress on 3LNC. Distant BS B. Irreg s1s2.
   Soft +BS. No edema. Labs notable for WBC 17K, HCT 29, K+ 4.1, HCO3 31,
   Cr 0.7. CXR with hyperinflation.
   Agree with plan to manage PAF c RVR with dilt, currently in NSR,
   holding heparin but continuing plavix. Will attempt to clarify
   contraindications to ASA (?ulcer) given hx of CAD / stents. Will
   transition to PO steroids, continue azithro x total of 5 days, and
   transition from nebs to MDI rx for COPD flare. Will check BNP to
   exclude an element of volume overload contributing to her respiratory
   distress, but will hold off on diuresis for now. Abdominal pain is
   baseline, continue fentanyl. She would benefit from pulmonary rehab,
   will begin screening process today. Will add adenosine to allergy list.
   Remainder of plan as outlined above.
   Total time: 35 min